US05723614
A solution of 1 g of ethyl 5-(1-piperazinyl)-benzofuran-2-carboxylate in 50 ml of dichloromethane is treated with 1 g of benzyl chloride and stirred for 2 hours. After customary working up, ethyl 5-(4-benzyl-1-piperazinyl)benzofuran-2-carboxylate, m.p. 219°-222°, is obtained.

reactant | ethyl 5-(1-piperazinyl)-benzofuran-2-carboxylate | 1 g | N1(CCNCC1)C=1C=CC2=C(C=C(O2)C(=O)OCC)C1 | C15H18N2O3
reactant | benzyl chloride | 1 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | ethyl 5-(4-benzyl-1-piperazinyl)benzofuran-2-carboxylate | C(C1=CC=CC=C1)N1CCN(CC1)C=1C=CC2=C(C=C(O2)C(=O)OCC)C1 | C22H24N2O3
